US05098930
Using the procedure described in Example 5, 2-bromomethylnaphthalene (0.245 g) was reacted with 4-(3-hydroxyphenyl)-4-methoxy-2,2-dimethyltetrahydropyran (0.25 g) to give 4-methoxy-2,2-dimethyl-4-[3-(naphth-2-ylmethoxy)phenyl]tetrahydropyran (0.38 g, 95%), as an oil.

reactant | 2-bromomethylnaphthalene | 0.245 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | 4-(3-hydroxyphenyl)-4-methoxy-2,2-dimethyltetrahydropyran | 0.25 g | OC=1C=C(C=CC1)C1(CC(OCC1)(C)C)OC | C14H20O3
product | 4-methoxy-2,2-dimethyl-4-[3-(naphth-2-ylmethoxy)phenyl]tetrahydropyran | 0.38 g, 95% | COC1(CC(OCC1)(C)C)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C25H28O3
